US07790709B2
Preparation of (E)-3-[4-(4-Methoxy-benzyl)-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl]acrylic acid hydrochloride
A suspension of (E)-3-[4-(4-methoxy-benzyl)-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl]acrylic acid tert-butyl ester (3.54 g, 8.65 mmol) in CH2Cl2 (20 mL) was treated with TFA (20 mL). After stirring at room temperature under N2 for 25 min, the clear tan solution was concentrated in vacuo. The resulting residue was treated with anhydrous HCl (40 mL of a 4.0 M solution in dioxane, 160 mmol) and sonicated for 15 min. The solid was isolated by filtration, washed with Et2O and dried under vacuum at 50° C. for 3 d to give the title compound (3.40 g, 92%) as a white solid: 1H NMR (300 MHz, DMSO-d6) δ 12.38 (br s, 1H), 11.32 (s, 1H), 8.77 (s, 1H), 8.28 (s, 1H), 7.66-7.58 (m, 3H), 7.02 (d, J=8.6 Hz, 2H), 6.63 (d, J=16.1 Hz, 1H), 4.41-4.27 (m, 5H), 3.79 (s, 3H), 3.68 (s, 2H); MS (ESI) m/e 354 (M+H)+.

reactant | (E)-3-[4-(4-methoxy-benzyl)-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl]acrylic acid tert-butyl ester | 8.65 mmol, 3.54 g | C(C)(C)(C)OC(\C=C\C1=CC2=C(NC(CN(C2)CC2=CC=C(C=C2)OC)=O)N=C1)=O | C23H27N3O4
reactant | TFA | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (E)-3-[4-(4-Methoxy-benzyl)-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl]acrylic acid hydrochloride | 3.40 g, 92% | Cl.COC1=CC=C(CN2CC(NC3=C(C2)C=C(C=N3)/C=C/C(=O)O)=O)C=C1 | InChI=1S/C19H19N3O4.ClH/c1-26-16-5-2-13(3-6-16)10-22-11-15-8-14(4-7-18(24)25)9-20-19(15)21-17(23)12-22;/h2-9H,10-12H2,1H3,(H,24,25)(H,20,21,23);1H/b7-4+;
